US05374641
3-(1-Methyl-2-pyrrolyl)-3-(3-pyridyl)propylamine (0.59 g) and triethylamine (0.31 g) were dissolved in 20 ml of methylene chloride, followed by addition of 0.64 g of p-chlorobenzene sulfonylchloride, and stirred at room temperature for 18 hours. To the reaction mixture was added 2N hydrogen chloride, and the organic phase was separated, which was then extracted with methylene chloride from the aqueous phase. After washing in saturated aqueous sodium hydrogencarbonate and in aqueous saturated sodium chloride solution and drying over magnesium sulfate, the solvent was distilled off to obtain 0.96 g of N-[3-(1-methyl-2-pyrrolyl)-3-(3-pyridyl)propyl ]-4-chlorobenzenesulfonamide.

reactant | 3-(1-Methyl-2-pyrrolyl)-3-(3-pyridyl)propylamine | 0.59 g | CN1C(=CC=C1)C(CCN)C=1C=NC=CC1 | C13H17N3
reactant | triethylamine | 0.31 g | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzene sulfonylchloride | 0.64 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(1-methyl-2-pyrrolyl)-3-(3-pyridyl)propyl ]-4-chlorobenzenesulfonamide | 0.96 g | CN1C(=CC=C1)C(CCNS(=O)(=O)C1=CC=C(C=C1)Cl)C=1C=NC=CC1 | C19H20ClN3O2S
